US08871738B2
To a 250 mL RBF was added 4-bromo-3-methylbenzoic acid (10 g, 46.5 mmol), DMAP (8.52 g, 69.8 mmol) and tert-butyl alcohol (100 mL). Di-tert-butyl dicarbonate (12.96 mL, 55.8 mmol) was added via a syringe to the solution, which caused vigorous bubbling, foaming and the loss of some material. The remaining reaction mixture was heated at 70° C. overnight. The reaction was cooled to room temperature and the volatiles were removed under reduced pressure. Crude material was diluted with ethyl acetate:hexanes (1:4, 200 mL) and was washed sequentially with 5% aqueous KOH (200 mL) and saturated aqueous ammonium chloride (2×100 mL). The organics were dried over sodium sulfate, filtered and concentrated before purification by column chromatography. tert-Butyl 4-bromo-3-methylbenzoate was isolated as a colorless oil (7.2 g, 26.6 mmol). 1H NMR (500 MHz, CDCl3) δ 7.87 (s, 1H), 7.67 (d, J=8.3 Hz, 1H), 7.60 (d, J=8.2 Hz, 1H), 2.47 (s, 3H), 1.62 (s, 9H).

reactant | 4-bromo-3-methylbenzoic acid | 46.5 mmol, 10 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | Di-tert-butyl dicarbonate | 55.8 mmol, 12.96 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 69.8 mmol, 8.52 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | tert-butyl alcohol | 100 mL | C(C)(C)(C)O | C4H10O
product | tert-Butyl 4-bromo-3-methylbenzoate | BrC1=C(C=C(C(=O)OC(C)(C)C)C=C1)C | C12H15BrO2
